US07314872B2
The reduction reaction of 4-methylene-cyclohexanecarboxylic acid ethyl ester with LAH is as described in the above reference. The product was purified by distillation to provide (4-methylene-cyclohexyl)-methanol as clear oil (3.67 g, 29.09 mmol, 50% over Step A and B).

reactant | 4-methylene-cyclohexanecarboxylic acid ethyl ester | C(C)OC(=O)C1CCC(CC1)=C | C10H16O2
reactant | LAH | [H-].[H-].[H-].[H-].[Li+].[Al+3]
product | (4-methylene-cyclohexyl)-methanol | C=C1CCC(CC1)CO | C8H14O
